US07915281B2
Under a nitrogen atmosphere, a solution of 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-N,N-bis(4-methoxybenzyl)-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine (1.48 g, 2.50 mmol) in trifluoroacetic acid (20 g) was stirred at room temperature for 24 hours. The solution was then worked-up and the product isolated as described in Part B of Example 21. After the desired product was collected by filtration, it was purified by column chromatography on silica gel (60 g, eluting with 5% to 10% CMA in chloroform) to provide 0.235 g of 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine as a white powder, mp 278.0-279.0° C.

reactant | 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-N,N-bis(4-methoxybenzyl)-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine | 2.50 mmol, 1.48 g | FC1=CC=C(C=C1)C1=NOC(=C1)CN1C(=NC=2C(=NC(=C(C21)C)C)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)C | C35H34FN5O3
solvent | trifluoroacetic acid | 20 g | FC(C(=O)O)(F)F | C2HF3O2
product | 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine | 0.235 g | FC1=CC=C(C=C1)C1=NOC(=C1)CN1C(=NC=2C(=NC(=C(C21)C)C)N)C | C19H18FN5O
